US04211720
Methyl 4-bromo-2-cyano-3,3-dimethyl-6,6,6-trichlorohexanoate (64.0 g, 0.166 m) was added over a period of 25 minutes to a suspension of potassium hydroxide (120.0 g, 1,8 m) in methanol (2100 ml) at 20° C. The mixture was then stirred for 1 hour at 35° C. and subsequently heated under reflux for 2.5 hours. The solvent was then removed under reduced pressure and the residue was dissolved in water (1500 ml). The aqueous phase was washed once with dichloromethane and acidified with concentrated hydrochloric acid to about pH 1. The mixture was then extracted three time with dichloromethane and the extracts were dried. The solvent was removed under reduced pressure to yield the required acid 1-cyano-2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid, as a white crystalline solid (m.p. 128°-132° C., yield 37.6 g, 97%). The NMR spectrum of the compound measured at 60 MHz in deuterochloroform solution showed the following absorptions relative to a tetramethylsilane standard. On the basis of the spectrum it was established that the product consisted of two geometric isomers, Z and E, in the ratio Z:E=56:44.

reactant | Methyl 4-bromo-2-cyano-3,3-dimethyl-6,6,6-trichlorohexanoate | 64.0 g | BrC(C(C(C(=O)OC)C#N)(C)C)CC(Cl)(Cl)Cl | C10H13BrCl3NO2
reactant | potassium hydroxide | 120.0 g | [OH-].[K+]
solvent | methanol | 2100 ml | CO | CH4O
product | 1-cyano-2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropanecarboxylic acid | C(#N)C1(C(C1(C)C)C=C(Cl)Cl)C(=O)O | C9H9Cl2NO2
